US07427683B2
b) N-Methyl-N-(4-nitro-3-piperidin-1-yl-phenyl)-acetamide
To a solution of methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine (80 mg, 0.34 mmol, as prepared in the previous step) and triethylamine (118 μL, 0.850 mmol)) in 4 mL of CH2Cl2 was added acetic anhydride (320 μL, 3.40 mmol) via microsyringe and the reaction was allowed to stir overnight. At this time it was diluted with CHCl3 (50 mL), washed with satd aq NaHCO3 (2×50 mL), and dried (Na2SO4). Concentration of the solvent in vacuo and purification of the crude material using preparative TLC (4% MeOH—CHCl3) afforded 67 mg (71%) of the title compound as an oil. Mass spectrum (ESI, m/z): Calcd. for C14H19N3O3, 278.1 (M+H), found 278.1.

reactant | methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine | CNC1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1 | C12H17N3O2
reactant | triethylamine | 0.850 mmol, 118 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 3.40 mmol, 320 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Methyl-N-(4-nitro-3-piperidin-1-yl-phenyl)-acetamide | 67 mg, 71% | CN(C(C)=O)C1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1 | C14H19N3O3
